US05840917
3-Acetyl-2-thiophenecarboxylic acid methyl ester (3.87 g) synthesized in this manner was dissolved in methanol (50 ml), and sodium borohydride (0.95 g) was added under ice-cooling. The mixture was stirred at room temperature for 1 hour, and 1N hydrochloric acid (50 ml) was added. The mixture was extracted with ethyl acetate, and the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 3-(1-hydroxyethyl)-2-thiophenecarboxylic acid methyl ester (3.77 g). This product was dissolved in ethyl acetate (100 ml), and methanesulfonyl chloride (2.86 g), triethylamine (3.5 g) and dimethylaminopyridine (0.2 g) were added. The mixture was stirred at room temperature for 2 hours, and 1N hydrochloric acid (50 ml) was added. The mixture was extracted with ethyl acetate, and the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in acetone (100 ml), and sodium iodide (10 g) was added. The mixture was stirred at room temperature for 2 hours, and insoluble substances were removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography. The desired fractions were concentrated under reduced pressure to give 3-(1-iodoethyl)-2-thiophenecarboxylic acid methyl ester (3.0 g). 3-(1-iodoethyl)-2-thiophenecarboxylic acid methyl ester was dissolved in dimethylsulfoxide (10 ml), and sodium borohydride (0.4 g) was added at room temperature. The mixture was stirred for 1 hour, and 1N hydrochloric acid was added. The mixture was extracted with ethyl acetate, and the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 3-ethyl-2-thiophenecarboxylic acid methyl ester (1.0 g). A mixture of 3-ethyl-2-thiophenecarboxylic acid methyl ester (1.0 g), 1N aqueous sodium hydroxide (15 ml), tetrahydrofuran (30 ml) and methanol (10 ml) was stirred at room temperature for 1 hour. The mixture was washed with diethyl ether, and the aqueous layer was acidified with 1N hydrochloric acid and extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 3-ethyl-2-thiophenecarboxylic acid (0.9 g) as crystals.

reactant | 3-Acetyl-2-thiophenecarboxylic acid methyl ester | 3.87 g | COC(=O)C=1SC=CC1C(C)=O | C8H8O3S
reactant | sodium borohydride | 0.95 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 3-(1-hydroxyethyl)-2-thiophenecarboxylic acid methyl ester | 3.77 g | COC(=O)C=1SC=CC1C(C)O | C8H10O3S
